US08492422B2
2-tert-Butoxycarbonylamino-3-phenyl-propionic acid 3-[(S)-1-(1H-imidazol-4-yl)-ethyl]-2-methyl-benzyl ester
The title compound was prepared from (S)-[3-(1-(1H-imidazol-4-yl)ethyl)-2-methylphenyl]methanol (216 mg, 1.0 mmol), Boc-L-Phenylalanine (795 mg, 3.0 mmol), EDCI (671 mg, 3.5 mmol) and DMAP (427 mg, 3.5 mmol) according to the procedure described in Example 3. Intermediate 12 was purified by a column chromatography using 35-100% ethyl acetate in hexane.

reactant | (S)-[3-(1-(1H-imidazol-4-yl)ethyl)-2-methylphenyl]methanol | 1.0 mmol, 216 mg | N1C=NC(=C1)[C@@H](C)C=1C(=C(C=CC1)CO)C | C13H16N2O
reactant | Boc-L-Phenylalanine | 3.0 mmol, 795 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | EDCI | 3.5 mmol, 671 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 3.5 mmol, 427 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-tert-Butoxycarbonylamino-3-phenyl-propionic acid 3-[(S)-1-(1H-imidazol-4-yl)-ethyl]-2-methyl-benzyl ester | N1C=NC(=C1)[C@@H](C)C=1C(=C(COC(C(CC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O)C=CC1)C | C27H33N3O4
